US07709655B2
To a solution of EtMgBr in THF (1.0M, 11.9 mL) was added phenylacetylene (1.30 mL, 11.9 mmol) at room temperature. The reaction mixture was heated to 50° C. for 15 min. After cooling the mixture to room temperature, a solution of phenylazide (1.41 g, 11.9 mmol) in THF (4 mL) was added. The resulting solution was stirred at room temperature for 30 min, and then heated to 50° C. for 1 hour before quenching with saturated NH4Cl (10 mL). The layers was separated, and the aqueous layer was extracted with CH2Cl2 (10 mL×3). The combined organic layers were dried over Na2SO4 and concentrated under reduced pressure. The residue was purified by flash column chromatography on silica gel to afford the 1,5-diphenyltriazole as a white solid (1.98 g, 75%). 1H NMR (CDCl3, 300 MHz) δ 7.86 (s, 1H), 7.44-7.30 (m, 8H), 7.23-7.20 (m, 2H); 13C NMR (CDCl3, 75 MHz) δ 137.6, 136.5, 133.4, 129.3, 129.2, 128.8, 128.5, 126.7, 125.1.

reactant | EtMgBr | CC[Mg+].[Br-]
reactant | phenylacetylene | 11.9 mmol, 1.30 mL | C1(=CC=CC=C1)C#C | C8H6
reactant | phenylazide | 11.9 mmol, 1.41 g | C1(=CC=CC=C1)N=[N+]=[N-] | C6H5N3
solvent | THF | 1.0M, 11.9 mL | C1CCOC1 | C4H8O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 1,5-diphenyltriazole | 1.98 g, 75% | C1(=CC=CC=C1)N1N=NC=C1C1=CC=CC=C1 | C14H11N3
